US09371320B2
E) methyl 4-(1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate
To a solution of methyl 4-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate (122 mg) in acetonitrile (20 mL) were added sodium iodide (102 mg) and chloro(trimethyl)silane (297 mg), and the mixture was stirred at 60° C. for 20 min. To the reaction mixture was added water, and the mixture was concentrated under reduced pressure to evaporate the acetonitrile. The precipitate in the remaining aqueous solution was collected by filtration to give the title compound (107 mg).

reactant | methyl 4-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate | 122 mg | C1(CCCC1)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(SC2)C(=O)OC | C18H19N3O3S
reactant | sodium iodide | 102 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 297 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | methyl 4-(1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate | 107 mg | C1(CCCC1)N1N=C(C=2C(NC=CC21)=O)C=2C=C(SC2)C(=O)OC | C17H17N3O3S
